US08957070B2
N-{2-[5-(Chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(cyclopropylmethyl)thiophene-2-sulfonamide
To a mixture of N-(cyclopropylmethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (2.15 g), N,N-dimethylformamide (0.03 mL) and tetrahydrofuran (30 mL) was added thionyl chloride (918 mg), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate and saturated brine, and washed with saturated brine. The organic layer was dried over magnesium sulfate and filtrated. The filtrate was concentrated, and the residue was subjected to silica gel column chromatography, and eluted with ethyl acetate. The obtained solid was washed with ether-hexane (1:1) to give the title compound (2.05 g, yield 97%) as a pale-yellow solid. melting point 135° C.

reactant | N-(cyclopropylmethyl)-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 2.15 g | C1(CC1)CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CO | C20H19N3O3S3
reactant | N,N-dimethylformamide | 0.03 mL | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 918 mg | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | N-{2-[5-(Chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(cyclopropylmethyl)thiophene-2-sulfonamide | 2.05 g, yield 97% | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)CC1CC1 | C20H18ClN3O2S3
